US07601714B2
(5-Nitro-4-thiocyanato-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine (10 g, 26.9 mmol) was dissolved in DCM (100 ml). cis-4-aminomethyl-cyclohexanol (3.48 g, 26.9 mmol) and diisopropylethylamine (10 mL, 53.8 mmol) were added to the solution and stirred overnight. The reaction mixture was evaporated in-vacuo and purified by column chromatography (1% MeOH/99% CH2Cl2). The resulting solid was washed with cold methanol to give a pale yellow solid as cis-4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexanol (11.3 g, 25.6 mmol, 95.1%).

reactant | (5-Nitro-4-thiocyanato-pyrimidin-2-yl)-(2-trifluoromethoxy-benzyl)-amine | 26.9 mmol, 10 g | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)SC#N | C13H8F3N5O3S
reactant | cis-4-aminomethyl-cyclohexanol | 26.9 mmol, 3.48 g | NC[C@H]1CC[C@H](CC1)O | C7H15NO
reactant | diisopropylethylamine | 53.8 mmol, 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | cis-4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexanol | 25.6 mmol, 11.3 g, 95.1% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@H]1CC[C@H](CC1)O | C19H22F3N5O4
